US09290485B2
c) 1-[4-(3-Cyclopropyl-ureido)-benzyl]-1H-pyrazole-4-carboxylic acid ethyl ester
To a solution of 1-(4-isocyanato-benzyl)-1H-pyrazole-4-carboxylic acid ethyl ester (99 mg, 0.365 mmol) in THF (2 ml) was added cyclopropylamine (41.7 mg, 0.730 mmol). The resulting solution was stirred for 30 min at 23° C. The solvent was evaporated, and the residual white solid was triturated in diethyl ether, filtered, washed with diethyl ether and ethanol, and dried under vacuum to afford the title compound.

reactant | 1-(4-isocyanato-benzyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.365 mmol, 99 mg | C(C)OC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)N=C=O | C14H13N3O3
reactant | cyclopropylamine | 0.730 mmol, 41.7 mg | C1(CC1)N | C3H7N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-[4-(3-Cyclopropyl-ureido)-benzyl]-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)NC(=O)NC1CC1 | C17H20N4O3
